US07994185B2
Step B: N-{3-[5-(2-Amino-4-pyrimidinyl)-2-(1,1-dioxido-4-thiomorpholinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide
Following a procedure analogous to Example 51, Step B using N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dioxido-4-thiomorpholinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide (0.30 g, 0.487 mmol) and 7 M ammonia (20 mL) the title compound was obtained (0.11 g, 38% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.88 (br. s., 1H), 7.85 (d, J=5.3 Hz, 1H), 7.63-7.75 (m, 1H), 7.42 (td, J=7.5, 1.7 Hz, 1H), 7.19-7.36 (m, 4H), 6.60 (br. s., 2H), 5.68 (d, J=5.1 Hz, 1H), 3.97 (br. s., 4H), 3.29 (br. s., 4H). m/z (ES+): 597 [M+H]+.

reactant | N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dioxido-4-thiomorpholinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide | 0.487 mmol, 0.30 g | ClC1=NC=CC(=N1)C1=C(N=C(S1)N1CCS(CC1)(=O)=O)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC=C1F)F)F | C23H17ClF3N5O4S3
reactant | ammonia | 7 M, 20 mL | N | H3N
product | N-{3-[5-(2-Amino-4-pyrimidinyl)-2-(1,1-dioxido-4-thiomorpholinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide | 38% yield | NC1=NC=CC(=N1)C1=C(N=C(S1)N1CCS(CC1)(=O)=O)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC=C1F)F)F | C23H19F3N6O4S3
